US07626042B2
(1) 5-Chloro-2-hydroxy-N-[2-(4-methoxyphenoxy)-5-(trifluoromethyl)phenyl]-benzamide
Using 5-chlorosalicylic acid and 3-amino-4-(4-methoxyphenoxy)-benzotrifluoride as the raw materials, the same operation as the Example 1(1) gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-amino-4-(4-methoxyphenoxy)-benzotrifluoride | NC=1C=C(C=CC1OC1=CC=C(C=C1)OC)C(F)(F)F | C14H12F3NO2
product | 5-Chloro-2-hydroxy-N-[2-(4-methoxyphenoxy)-5-(trifluoromethyl)phenyl]-benzamide | Yield: 88.1% | ClC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)OC2=CC=C(C=C2)OC)C1)O | C21H15ClF3NO4
